US06159990
To 4-cyano-4-(2,4-dichlorophenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.620 g, 1.74 mmol) in dichloromethane (5 mL), trifluoroacetic acid (2 mL) was added and the solution stirred at room temperature for 1 hour. The solution was concentrated, neutralized with 10% KOH solution and extracted into 25 ml of dichloromethane. The organic layer was dried over sodium sulfate, filtered and concentrated to give 0.442 g (99%) of 4-(2,4-dichlorophenyl)-piperidine-4-carbonitrile which was used as such for the subsequent step.

reactant | 4-cyano-4-(2,4-dichlorophenyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.74 mmol, 0.620 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=C(C=C1)Cl)Cl)C#N | C17H20Cl2N2O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2,4-dichlorophenyl)-piperidine-4-carbonitrile | 0.442 g, 99% | ClC1=C(C=CC(=C1)Cl)C1(CCNCC1)C#N | C12H12Cl2N2
